US07956069B2
The preparation of (trans (+/−))-1-[1-[1-(thiophene-2-carbonyl)-4-piperidyl]-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-2-one
To a solution of (trans (+/−))-1-(1,4′-bipiperidin-4-yl)octahydro-2H-benzimidazol-2-one. 2TFA (180 mg, 0.31 mmol) in a mixture of dichloromethane and chloroform (1:4) was added diisopropylethylamine (0.2 mL, 1.1 mmol) followed by thiophene-2-carbonyl chloride (0.1 mL, 0.6 mmol) at room temperature. The mixture stirred 48 hours and then quenched with water. Diluted in dichloromethane (60 mL) and washed with 1N NaOH (5 mL) and brine (5 mL) and concentrated in vacuo. The crude was purified by high pH prep LCMS (acetonitrile/water) to provide 26 mg of the title compound as a white solid. 1H NMR (400 MHz, CHLOROFORM-D): δ ppm 1.26-1.58 (m, 6H), 1.59-2.03 (m, 9H), 2.12-2.34 (m, 3H), 2.44-2.64 (m, 1H), 2.82-3.06 (m, 6H), 3.62-3.84 (m, 1H), 4.29-4.57 (m, 2H), 4.63 (s, 1H), 7.01 (d, J=5.08 Hz, 1H), 7.18-7.27 (m, 1H), 7.35-7.46 (m, 1H). MS (M+1): 417.3

reactant | 1-(1,4′-bipiperidin-4-yl)octahydro-2H-benzimidazol-2-one | N1(CCC(CC1)N1C(NC2C1CCCC2)=O)C2CCNCC2 | C17H30N4O
reactant | diisopropylethylamine | 1.1 mmol, 0.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | thiophene-2-carbonyl chloride | 0.6 mmol, 0.1 mL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[1-[1-(thiophene-2-carbonyl)-4-piperidyl]-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-2-one | 26 mg | S1C(=CC=C1)C(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2C1CCCC2)=O | C22H32N4O2S
